US05854268
Sodium cyanoborohydride (1.15 g, 18.3 mmol) was added to a solution of benzylamine (1.04 ml, 9.5 mmol) and glacial acetic acid (2.10 ml, 36.7 mmol), in dry methanol (150 ml), at room temperature. The solution was cooled to 0° C. and a solution of the-preceding aldehyde (1.35 g, 7.3 mmol), in methanol (50 ml), was added. The mixture was warmed to room temperature and stirred for 20 h. The volatiles were removed in vacuo and the residue partitioned between EtOAc/aq. K2CO3. The aqueous was extracted with EtOAc (×3) and the combined extracts dried and evaporated. The crude product was chromatographed on silica gel eluting with CH2Cl2 /MeOH (95:5→92:8) to give the desired N-benzylaminoazetidine (1.5 g, 73%). A mixture of formic acid (99%, 18 ml) and H2O(2 ml) was added to N-tert-butyloxycarbonyl-3-(benzylamino)methyl azetidine (1.5 g, 5.3 mmol) at 0° C. The mixture was warmed to room temperature, stirred for 16 h, and the solvent then removed under vacuum. Saturated aqueous K2 CO3 (25 ml) was added to the residue and extracted with nBuOH (5×25 ml). The combined extracts were evaporated and the residue treated with CH2Cl2 (50 ml) and filtered to remove inorganics. The filtrate was dried (Na2SO4) and evaporated to give the title compound (0.512 g, 55%). δ (360 MHz, CDCl3) 2.85 (2H, s, CH2Ph), 3.36-3.39 (1H, m, CH), 3.57-3.72 (4H, m, 2 of CH2), 3.79 (2H, s, CH2), 7.23-7.34 (5H, m, Ar--H).

reactant | Sodium cyanoborohydride | 18.3 mmol, 1.15 g | C(#N)[BH3-].[Na+]
reactant | benzylamine | 9.5 mmol, 1.04 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | acetic acid | 36.7 mmol, 2.10 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 150 ml | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
product | N-benzylaminoazetidine | 1.5 g, 73% | C(C1=CC=CC=C1)NN1CCC1 | C10H14N2
